***********************************************************
*
* BCV62C
*
* Nexperia
*
* General purpose double PNP Transistor
* IC   = 100 mA
* VCEO = 30 V 
* hFE  = 420 - 800 @ 5V/2mA
*
*
*
*
* Package pinning does not match Spice model pinning.
* Package: SOT 143B
* 
* Package Pin 1: Collector TR2; Base TR1 and TR2
* Package Pin 2: Collector TR1
* Package Pin 3: Emitter   TR1
* Package Pin 4: Emitter   TR2
*
* Extraction date (week/year): 45/2013
* Spicemodel does not include temperature dependency
*
**********************************************************
*#
.SUBCKT BC857CW 1 2 3 4
Q1 1 2 3 MAIN
Q2 2 2 4 MAIN
.MODEL MAIN PNP
+ IS = 2.616E-014
+ NF = 0.9973
+ ISE = 4.892E-015
+ NE = 1.411
+ BF = 435
+ IKF = 0.048
+ VAF = 12.54
+ NR = 0.9931
+ ISC = 9.492E-015
+ NC = 1.262
+ BR = 13
+ IKR = 0.02063
+ VAR = 15.21
+ RB = 39
+ IRB = 9.5E-005
+ RBM = 2.95
+ RE = 0.5029
+ RC = 0.287
+ XTB = 0
+ EG = 1.11
+ XTI = 3
+ CJE = 8.778E-012
+ VJE = 0.7445
+ MJE = 0.3727
+ TF = 1.01E-009
+ XTF = 18
+ VTF = 5
+ ITF = 0.8
+ PTF = 0
+ CJC = 5.461E-012
+ VJC = 0.972
+ MJC = 0.522
+ XCJC = 1
+ TR = 4.695E-008
+ CJS = 0
+ VJS = 0.75
+ MJS = 0.333
+ FC = 0.79
.ENDS 
*