* CA3080 Operational Transconductance Amplifier
*
* SPICE (Simulation Program with Integrated Circuit Emphasis)
* SUBCIRCUIT
*
* Connections:
*              INVERTING INPUT
*               | NON-INVERTING INPUT
*               |  |  NEGATIVE POWER SUPPLY
*               |  |  |  I BIAS
*               |  |  |  | OUTPUT
*               |  |  |  |  |  POSITIVE POWER SUPPLY
*               |  |  |  |  |  |
.SUBCKT CA3080  2  3  4  5  6  7
Q1         8 2 1 QN_OTA
Q2         8 3 12 QN_OTA
Q3         4 5 8 QN_OTA
Q4         7 9 1 QP_OTA
Q5         10 1 11 QP_OTA
Q6         9 10 11 QP_OTA
Q7         7 14 12 QP_OTA
Q8         13 12 6 QP_OTA
Q9         14 13 6 QP_OTA
Q10       15 11 6 QN_OTA
Q11         4 15 11 QN_OTA
D1         5 4 D_OTA
D2         1 10 D_OTA
D3         7 9 D_OTA
D4         12 13 D_OTA
D5         7 14 D_OTA
D6         15 4 D_OTA
*
.MODEL QN_OTA NPN(IS=21.48F XTI=3 EG=1.11 VAF=80 BF=550 ISE=50F NE=1.5
+ IKF=10M XTB=1.5 BR=.1 ISC=10F NC=2 IKR=3M RC=10 CJC=800F
+ MJC=.3333 VJC=.75 FC=.5 CJE=1.3P MJE=.3333 VJE=.75 TR=30N
+ TF=400P ITF=30M XTF=1 VTF=10 CJS=5.8P MJS=.3333 VJS=.75)
*
.MODEL QP_OTA PNP(IS=50F XTI=3 EG=1.11 VAF=80 BF=100 ISE=130F NE=1.5 IKF=1M
+ XTB=1.5 BR=1 ISC=0 NC=2 IKR=0 RC=0 CJC=4P MJC=.3333
+ VJC=.75 FC=.5 CJE=1.4P MJE=.3333 VJE=.75 TR=500N TF=23N ITF=.1
+ XTF=1 VTF=10 CJS=5.5P MJS=.3333 VJS=.75)
*
.MODEL D_OTA D(IS=2P RS=5 BV=40 CJO=3P TT=6N)
*
.ENDS
