* NPN/NPN Matched Transistor Array ngspice model
* file name: PMP4201.lib
.subckt PMP4201 1 2 3 4 5 6
.include bc5x7.lib
Q1 6 1 5 BC846B
Q2 3 2 4 BC846B
.ends 
 
