* AD633 Analog Multiplier Macro Model 12/93, Rev. A 
* AAG/PMI 
* 
* Copyright 1993 by Analog Devices, Inc. 
* 
* Refer to "README.DOC" file for License Statement.  Use of this model 
* indicates your acceptance with the terms and provisions in the License Statement. 
* 
* Node assignments 
*             X1 
*             |  X2 
*             |  |  Y1 
*             |  |  |  Y2 
*             |  |  |  |  VNEG 
*             |  |  |  |  |  Z 
*             |  |  |  |  |  |  W 
*             |  |  |  |  |  |  |  VPOS 
*             |  |  |  |  |  |  |  | 
.SUBCKT AD633 1  2  3  4  5  6  7  8 
* 
EREF 100 0 POLY(2) 8 0 5 0 (0,0.5,0.5) 
* 
* X-INPUT STAGE & POLE AT 15 MHz 
* 
IBX1 1 0 DC 8E-7 
IBX2 2 0 DC 8E-7 
EOSX 10 1 POLY(1) (16,100) (5E-3,1) 
RX1A 10 11 5E6 
RX1B 11 2 5E6 
* 
GX 100 12 10 2 1E-6 
RX 12 100 1E6 
CX 12 100 1.061E-14 
VX1 8 13 DC 3.05 
DX1 12 13 DX 
VX2 14 5 DC 3.05 
DX2 14 12 DX 
* 
* COMMON-MODE GAIN NETWORK WITH ZERO AT 560 Hz 
* 
ECMX 15 100 11 100 10 
RCMX1 15 16 1E6 
CCMX 15 16 2.8421E-10 
RCMX2 16 100 1 
* 
* Y-INPUT STAGE & POLE AT 15 MHz 
* 
IBY1 3 0 DC 8E-7 
IBY2 4 0 DC 8E-7 
EOSY 20 3 POLY(1) (26,100) (5E-3,1) 
RY1A 20 21 5E6 
RY1B 21 4 5E6 
* 
GY 100 22 20 4 1E-6 
RY 22 100 1E6 
CY 22 100 1.061E-14 
VY1 8 23 DC 3.05 
DY1 22 23 DX 
VY2 24 5 DC 3.05 
DY2 24 22 DX 
* 
* COMMON-MODE GAIN NETWORK WITH ZERO AT 560 Hz 
* 
ECMY 25 100 21 100 10 
RCMY1 25 26 1E6 
CCMY 25 26 2.8421E-10 
RCMY2 26 100 1 
* 
* Z-INPUT STAGE & POLE AT 15 MHz 
* 
IBZ1 7 0 DC 8E-7 
IBZ2 6 0 DC 8E-7 
RZ1 7 6 10E6 
* 
GZ 100 32 7 6 1E-6 
RZ2 32 100 1E6 
CZ 32 100 1.061E-14 
VZ1 8 33 DC 3.05 
DZ1 32 33 DX 
VZ2 34 5 DC 3.05 
DZ2 34 33 DX 
* 
* 50-MHz MULTIPLIER CORE & SUMMER 
* 
GXY 100 40 POLY(2) (12,100) (22,100) (0,0,0,0,0.1E-6) 
RXY 40 100 1E6 
CXY 40 100 3.1831E-15 
* 
* OP AMP INPUT STAGE 
* 
VOOS 59 40 DC 5E-3 
Q1 55 32 60 QX 
Q2 56 59 61 QX 
R1 8 55 3.1831E4 
R2 60 54 3.1313E4 
R3 8 56 3.1831E4 
R4 61 54 3.1313E4 
I1 54 5 1E-4 
* 
* GAIN STAGE & DOMINANT POLE AT 316.23 Hz 
* 
G1 100 62 55 56 3.141637E-5 
R5 62 100 1.0066E8 
C3 62 100 5E-12 
V1 8 63 DC 4.3399 
D1 62 63 DX 
V2 64 5 DC 4.3399 
D2 64 62 DX 
* 
* NEGATIVE ZERO AT 20 MHz 
* 
ENZ 65 100 62 100 1E6 
RNZ1 65 66 1 
FNZ 65 66 VNC -1 
RNZ2 66 100 1E-6 
ENC 67 0 65 66 1 
CNZ 67 68 7.9577E-9 
VNC 68 0 DC 0 
* 
* POLE AT 4 MHz 
* 
G2 100 69 66 100 1E-6 
R6 69 100 1E6 
C2 69 100 3.9789E-14 
* 
* OP AMP OUTPUT STAGE 
* 
FSY 8 5 POLY(2) VZC1 VZC2 (2.8286E-3,1,1) 
RDC 8 5 28E3 
GZC 100 73 72 69 11.623E-3 
VZC1 74 100 DC 0 
DZC1 73 74 DX 
VZC2 100 75 DC 0 
DZC2 75 73 DX 
VSC1 70 72 0.695 
DSC1 69 70 DX 
VSC2 72 71 0.695 
DSC2 71 69 DX 
GO1 72 8 8 69 11.623E-3  
RO1 8 72 86 
GO2 5 72 69 5 11.623E-3  
RO2 72 5 86 
LO 72 7 1E-7 
* 
* MODELS USED 
* 
.MODEL QX NPN(BF=1E4) 
.MODEL DX D(IS=1E-15) 
.ENDS AD633 