.subckt Switch n1 n2 n3 PARAMS: val1=0, val2=999999999999meg
R1 n1 n2 val1
R2 n2 n3 val2
.ends Switch

.subckt Switch1 n1 n2 n3 PARAMS: val1=0, val2=999999999999meg
R1 n1 n2 val1
R2 n2 n3 val2
.ends Switch1

.subckt Switch2 n1 n2 n3 PARAMS: val1=0, val2=999999999999meg
R1 n1 n2 val1
R2 n2 n3 val2
.ends Switch2
