* CD4069UB CMOS HEX INVERTER as amplifier
*connections A(in) G(out) VDD VSS
.subckt 4069UB 6 1 4 10
M2 1 6 10 10 CD4069BN
M3 1 6 4 4 CD4069BP
.MODEL CD4069BN NMOS (LEVEL=1 VTO=2.1 KP=2.9M GAMMA=3.97U
+ PHI=.75 LAMBDA=1.87M RD=20.2 RS=184.1 IS=31.2F PB=.8 MJ=.46
+ CBD=47.6P CBS=57.2P CGSO=70.2N CGDO=58.5N CGBO=96.3N)
.MODEL CD4069BP PMOS (LEVEL=1 VTO=-2.9 KP=2M GAMMA=3.97U
+ PHI=.75 LAMBDA=1.87M RD=28.2 RS=145.2 IS=31.2F PB=.8 MJ=.46
+ CBD=47.6P CBS=57.2P CGSO=70.2N CGDO=58.5N CGBO=96.3N)
.ENDS 4069UB
*$ 
