* CD4069UB HEX inverter
.subckt CD4069UBhex 1in 1out 2in 2out 3in 3out GND 4out 4in 5out 5in 6out 6in vcc
.include 4069ub.lib
XU1A 1in 1out vcc GND 4069UB
XU1B 2in 2out vcc GND 4069UB
XU1C 3in 3out vcc GND 4069UB
XU1D 4in 4out vcc GND 4069UB
XU1E 5in 5out vcc GND 4069UB
XU1F 6in 6out vcc GND 4069UB
.ends 
