* A dual opamp ngspice model
* file name: OPA2134-dual.lib
.subckt OPA2134d 1out 1in- 1in+ vcc- 2in+ 2in- 2out vcc+
.include OPA2134.LIB
XU1A 1in+ 1in- vcc+ vcc- 1out OPA2134
XU1B 2in+ 2in- vcc+ vcc- 2out OPA2134
.ends 
