* A dual opamp ngspice model
* file name: TL074c.lib
.subckt TL074c 1out 1in- 1in+ vcc+ 2in+ 2in- 2out 3out 3in- 3in+ vcc- 4in+ 4in- 4out
.include TL072.lib
XU1A 1in+ 1in- vcc+ vcc- 1out TL072
XU1B 2in+ 2in- vcc+ vcc- 2out TL072
XU1C 3in+ 3in- vcc+ vcc- 3out TL072
XU1D 4in+ 4in- vcc+ vcc- 4out TL072
.ends 
