* PNP/PNP Matched Transistor Array ngspice model
* file name: PMP5201.lib
.subckt PMP5201 1 2 3 4 5 6
.include bc5x7.lib
Q1 6 1 5 BC556B
Q2 3 2 4 BC556B
.ends 
 
